US08835595B2
DL-alanine-copolymerized N-MXD10,6 (polyamide compound 314, MXDA unit/sebacic acid unit/DL-alanine unit/ε-caprolactam unit=39.3/39.4/4.4/16.9 (% by mol)) was produced in the same manner as in Example 301 except that adipic acid was changed to sebacic acid (produced by Itoh Oil Chemicals Co., Ltd.).

reactant | DL-alanine | NC(C)C(=O)O | C3H7NO2
reactant | sebacic acid | C(CCCCCCCCC(=O)O)(=O)O | C10H18O4
reactant | ε-caprolactam | C1(CCCCCN1)=O | C6H11NO
product | adipic acid | C(CCCCC(=O)O)(=O)O | C6H10O4
